US08258135B2
A mixture of 3-fluorophenylacetonitrile (200 mg, 1.48 mmol) and tert-butyl bis(2-chloroethyl)carbamate (358 mg, 1.48 mmol) was dissolved in 14.8 mL of anhydrous DMSO. The reaction was purged with a stream of nitrogen and cooled to 18° C. To this reaction was added sodium hydride (358 mg, 1.48 mmol), which was then warmed to ambient temperature and stirred for 2 hours. The reaction was warmed to 50° C. and stirred for 17 hours. The mixture was diluted with dichloromethane (40 mL), washed with water (3×40 mL), and partitioned between water and dichloromethane. The organic layer was dried over sodium sulfate, filtered, concentrated, and subjected to silica gel chromatography eluting with 0-20% EtOAc in hexanes. Collection of product containing fractions and removal of solvent yielded tert-butyl 4-cyano-4-(3-fluorophenyl)piperidine-1-carboxylate.

reactant | 3-fluorophenylacetonitrile | 1.48 mmol, 200 mg | FC=1C=C(C=CC1)CC#N | C8H6FN
reactant | tert-butyl bis(2-chloroethyl)carbamate | 1.48 mmol, 358 mg | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
reactant | sodium hydride | 1.48 mmol, 358 mg | [H-].[Na+]
solvent | DMSO | 14.8 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | tert-butyl 4-cyano-4-(3-fluorophenyl)piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C17H21FN2O2
